US07507736B2
[1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-trifluoromethane-sulfonyl-piperazin-1-yl)-methanone
The title compound was prepared in analogy to example 51, from [1-isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride and trifluoromethanesulfonyl chloride. Light-yellow solid. MS (m/z): 545.3 (M+H)+.

reactant | [1-isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride | Cl.C(C)(C)N1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCNCC1
reactant | trifluoromethanesulfonyl chloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
product | [1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-trifluoromethane-sulfonyl-piperazin-1-yl)-methanone | C(C)(C)N1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCN(CC1)S(=O)(=O)C(F)(F)F | C25H35F3N4O4S
